US07030139B2
2B: N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}-3-nitrobenzamide.
A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (1.00 g, 4.16 mmol), 2-(4-morpholinyl)ethanamine (0.600 mL, 4.58 mmol) in 80% aq. EtOH (50 mL) was refluxed for 4 hours. The reaction was then concentrated in vacuo, and the residue was taken up into EtOAc (40 mL). The organic phase was washed with saturated NaHCO3 (2×10 mL), and the combined aqueous phases were extracted with additional EtOAc (2×20 mL). The combined organic phases were dried over MgSO4, filtered, and concentrated in vacuo to provide the title compound. The crude product was purified by silica gel column chromatography (100% EtOAc to 5% triethylamine/EtOAc) to provide the title compound (1.12 g, 77%) as a bright yellow solid. 1H-NMR (CDCl3): δ 8.67 (s, 1H), 8.28 (d, J=1.2 Hz, 1H), 7.56 (dd, J=8.8 Hz, J=1.6 Hz, 1H), 6.85 (d, J=8.8 Hz, 1H), 3.77 (t, J=5.2 Hz, 4H), 3.55–3.20 (br m, 6H), 2.74 (t, J=6.4 Hz, 2H), 2.53 (br s, 4H), 1.22 (t, J=6.8 Hz, 6H). MS (ESI) (M+H)+=351.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 4.16 mmol, 1.00 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | 2-(4-morpholinyl)ethanamine | 4.58 mmol, 0.600 mL | N1(CCOCC1)CCN | C6H14N2O
solvent | EtOH | 50 mL | CCO | C2H6O
product | N,N-diethyl-4-{[2-(4-morpholinyl)ethyl]amino}-3-nitrobenzamide | C(C)N(C(C1=CC(=C(C=C1)NCCN1CCOCC1)[N+](=O)[O-])=O)CC | C17H26N4O4
